US08871720B2
Cbz-Phe-CN (2.54 g, 9.06 mmole) with sodium azide (1.18 g, 18.12 mmole) and zinc bromide (1.02 g, 4.53 mmole) in a 2:1 mixture of water/isopropanol (90 ml) was then refluxed for 16 hr. The mixture was removed from heat and allowed to cool to room temperature. 1M HCL (14 ml) was added to the mixture, causing the formation of a white precipitate. Ethyl Acetate (30 ml) was then added and the mixture was stirred until the precipitate disappeared. The aqueous phase was separated and washed with ethyl acetate (70 ml). The combined organic layers were then washed with 100 ml of water containing 150 μL of 1 mM DTPA in PBS. The organic layer were dried over magnesium sulfate, filtered, and concentrated in vacuo to give Cbz-Phe-tetrazole as a white solid. (2.96 g, 91%) HPLC analysis: 99% at 6.6 min; ESMS m/z 324.24 (MH)+, 346.25 (M+Na)+

reactant | Cbz-Phe-CN | 9.06 mmole, 2.54 g | N([C@@H](CC1=CC=CC=C1)C(=O)C#N)C(=O)OCC1=CC=CC=C1 | C18H16N2O3
reactant | sodium azide | 18.12 mmole, 1.18 g | [N-]=[N+]=[N-].[Na+]
reactant | water isopropanol | 90 ml | O.C(C)(C)O
catalyst | zinc bromide | 4.53 mmole, 1.02 g | [Br-].[Zn+2].[Br-]
product | Cbz-Phe tetrazole | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OCC1=CC=CC=C1.N1N=NN=C1 | InChI=1S/C17H17NO4.CH2N4/c19-16(20)15(11-13-7-3-1-4-8-13)18-17(21)22-12-14-9-5-2-6-10-14;1-2-4-5-3-1/h1-10,15H,11-12H2,(H,18,21)(H,19,20);1H,(H,2,3,4,5)/t15-;/m0./s1
